US04467090
Step (a) 1,1-Di(p-fluorophenyl)-3-chlorourea
t-Butyl hypochlorite (22.8 g, 0.21 mole) was added to 1,1-di(p-fluorophenyl)urea (49.4 g, 0.2 mole) in 750 ml methanol at 0°-5° and the mixture stirred for 0.5 hour to produce a thin slurry containing step (a) title product.

reactant | t-Butyl hypochlorite | 0.21 mole, 22.8 g | ClOC(C)(C)C | C4H9ClO
reactant | 1,1-di(p-fluorophenyl)urea | 0.2 mole, 49.4 g | FC1=CC=C(C=C1)N(C(=O)N)C1=CC=C(C=C1)F | C13H10F2N2O
solvent | methanol | 750 ml | CO | CH4O
product | 1,1-Di(p-fluorophenyl)-3-chlorourea | FC1=CC=C(C=C1)N(C(=O)NCl)C1=CC=C(C=C1)F | C13H9ClF2N2O
